US09353108B2
E) 2-Cyclopropyl-6-ethoxy-4′-fluorobiphenyl-4-carbaldehyde
A THF (50 mL) solution of ethyl 2-cyclopropyl-6-ethoxy-4′-fluorobiphenyl-4-carboxylate (10.5 g) was added to a THF (50 mL) suspension of lithium aluminum hydride (1.21 g) under ice cooling in a nitrogen atmosphere. After stirring at the same temperature as above for 30 minutes, water (1.2 mL) and a 15% aqueous sodium hydroxide solution (1.2 mL) were added thereto, and the mixture was stirred for 5 minutes. Water (3.6 mL) was further added to the reaction mixture, and the mixture was stirred for 30 minutes and then filtered. The filtrate was concentrated under reduced pressure. Manganese dioxide (13.9 g) was added to a toluene (60 mL) solution of the obtained residue, and the mixture was stirred at 60° C. for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (7.79 g).

reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | ethyl 2-cyclopropyl-6-ethoxy-4′-fluorobiphenyl-4-carboxylate | 10.5 g | C1(CC1)C1=C(C(=CC(=C1)C(=O)OCC)OCC)C1=CC=C(C=C1)F | C20H21FO3
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 1.21 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1.2 mL | [OH-].[Na+]
solvent | Water | 3.6 mL | O | H2O
solvent | water | 1.2 mL | O | H2O
product | 2-Cyclopropyl-6-ethoxy-4′-fluorobiphenyl-4-carbaldehyde | 7.79 g | C1(CC1)C1=C(C(=CC(=C1)C=O)OCC)C1=CC=C(C=C1)F | C18H17FO2
